US06218365B1
(b) 3-[1-(t-Butyloxycarbonyl)piperidin4-yl]propanoic acid
A suspension of 3-(piperidin4-yl)propanoic acid in 500 ml of N,N-dimethylformamide was treated with 30.9 g of di t-butyl dicarbonate. The pH of the reaction was adjusted at pH 8.5 using triethylamine and stirred for 4 hours at room temperature. The mixture was poured in 65 ml of a cooled 2 N sodium hydroxide solution and washed with ethyl acetate. The aqueous phase was acidified with 2 N hydrochloric acid pH 2 and extracted with ethyl acetate. The combined organic layers were washed with brine, dried on sodium sulphate and evaporated in vacuo to yield 37 g of the desired compound.

reactant | 3-(piperidin4-yl)propanoic acid | N1CCC(CC1)CCC(=O)O | C8H15NO2
reactant | di t-butyl dicarbonate | 30.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-[1-(t-Butyloxycarbonyl)piperidin4-yl]propanoic acid | 37 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
